US07816406B2
2-Methylsulfanyl-5-oxo-5H-7-thia-1,3,11b-triaza-benzo[c]fluorene-6-carboxylic acid (2-cyclopentyl-ethyl)-amide.
To a solution of 2-methylsulfanyl-5-oxo-5H-7-thia-1,3,11b-triaza-benzo[c]fluorene-6-carboxylic acid ethyl ester (230 mg, 0.619 mmol) and 2-(pyrrolidin-1-yl)ethanamine (0.24 mL, 1.854 mmol) in DCM (15 mL) was added solid AlCl3 (250 mg, 1.875 mmol) at rt. The reaction was stirred for 1 h at rt and diluted with DCM (100 mL), conc. sodium potassium tartrate (30 mL), and NaOH (6N, 10 mL). The mixture was stirred for 15 min and the layers were separated. The aqueous layer was extracted with DCM (50 mL) and the combined organic layer was washed with brine (50 mL). The crude reaction mixture was dried over Na2SO4, and concentrated to yield the desired product as a yellow solid (250 mg, 92%). MS (m/z): 440 (MH+). 1H NMR (CDCl3) δ: 10.26 (br, 1H), 9.61 (s, 1H), 9.55 (m, 1H), 7.77 (m, 1H), 7.57 (m, 1H), 7.50 (m, 1H), 3.67 (q, 2H), 2.81 (s, 3H), 2.77 (t, 2H), 2.63 (m, 4H), 1.82 (m, 4H).

reactant | 2-methylsulfanyl-5-oxo-5H-7-thia-1,3,11b-triaza-benzo[c]fluorene-6-carboxylic acid ethyl ester | 0.619 mmol, 230 mg | C(C)OC(=O)C=1C(C2=C(N3C=4C=CC=CC4SC13)N=C(N=C2)SC)=O | C17H13N3O3S2
reactant | 2-(pyrrolidin-1-yl)ethanamine | 1.854 mmol, 0.24 mL | N1(CCCC1)CCN | C6H14N2
reactant | AlCl3 | 1.875 mmol, 250 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | sodium potassium tartrate | 30 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 6N, 10 mL | [OH-].[Na+]
product | 2-Methylsulfanyl-5-oxo-5H-7-thia-1,3,11b-triaza-benzo[c]fluorene-6-carboxylic acid (2-cyclopentyl-ethyl)-amide | 250 mg, 92% | C1(CCCC1)CCNC(=O)C=1C(C2=C(N3C=4C=CC=CC4SC13)N=C(N=C2)SC)=O | C22H22N4O2S2
